US05344843
A mixture of 4-[[2-(4-nitrophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (4:1) molar hydrate (0.65 g) in methanol and 0.5N sodium hydroxide (8 mL) was treated as in Example 19. Extraction provided 0.6 g of crude product which solidified and was crystallized from dichloromethane-hexane to give 0.55 g of colorless 4-[[2-(4nitrophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid, mp 129°-130° C.

reactant | 4-[[2-(4-nitrophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H15NO7
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 8 mL | [OH-].[Na+]
product | 4-[[2-(4nitrophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.55 g | [N+](=O)([O-])C1=CC=C(OCCOC2=CC=C(C=C2)C(C(=O)O)=O)C=C1 | C16H13NO7
